US07071184B2
d. 5-methyl-3-(pyridine-2-sulfonyl)-8-oxa-3-aza-bicyclo[5.1.0]octane
To the solution of 3-methyl-1-(pyridine-2-sulfonyl)-2,3,4,7-tetrahydro-1H-azepine (1.3 g, 5.16 mmol) in CH2Cl2 (50 ml) was added NaHCO3 (1.3 g, 15.5 mmol) and then mCPBA (2.67 g, 15.5 mmol) in portions. Stirred at RT for 4 h before worked up by washing with 15% NaOH, saturated K2CO3 and brine. Dried over Na2SO4. The reaction miixture was concentrated by rotary evaporation and two insomers were seperated on column chromatography (30%–40% EtoAc/Hexane). The first elution (trans-isomer, 230 mg) was used in next steps, the second elution (cis-insomer 200 mg) was saved.: MS (M+H+): 269.0; 1H-NMR (400 Hz, CDCl3): d=8.70(d, 1H), 8.0–7.75(m, 2H), 7.50 (m, 1H) 4.39(m, 1H), 3.92(m, 1H), 3.34–2.00(m, 6H), 1.40(m, 1H), 0.88(d, 3H).

reactant | 3-methyl-1-(pyridine-2-sulfonyl)-2,3,4,7-tetrahydro-1H-azepine | 5.16 mmol, 1.3 g | CC1CN(CC=CC1)S(=O)(=O)C1=NC=CC=C1 | C12H16N2O2S
reactant | NaHCO3 | 15.5 mmol, 1.3 g | C(=O)(O)[O-].[Na+]
reactant | mCPBA | 15.5 mmol, 2.67 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-3-(pyridine-2-sulfonyl)-8-oxa-3-aza-bicyclo[5.1.0]octane | CC1CN(CC2OC2C1)S(=O)(=O)C1=NC=CC=C1 | C12H16N2O3S
